US04888340
A mixture of benzyl 4-hydroxyphenyl ketone (12.5 g; 0.059 mol), potassium carbonate (11.2 g; 0.08 mol) and sodium iodide (0.5 g) in dimethylformamide (80 ml) was heated to 130° C. At this temperature, 2,2,2-trifluoroethyl p-toluenesulphonate (16.4 g; 0.066 mol), dissolved in dimethyl sulphoxide (30 ml), was added dropwise over 30 minutes. It was then stirred for 45 minutes at a 130° C. After cooling, the reaction mixture was poured into ice-water (500 ml) and the precipitate separated. This was recrystallised from diisopropyl ether/hexane to give pure benzyl 4-(2,2,2-trifluoroethoxy)phenyl ketone.

reactant | benzyl 4-hydroxyphenyl ketone | 0.059 mol, 12.5 g | OC1=CC=C(C=C1)C(=O)CC1=CC=CC=C1 | C14H12O2
reactant | potassium carbonate | 0.08 mol, 11.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.5 g | [I-].[Na+]
reactant | 2,2,2-trifluoroethyl p-toluenesulphonate | 0.066 mol, 16.4 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(F)(F)F)C | C9H9F3O3S
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethyl sulphoxide | 30 ml | CS(=O)C | C2H6OS
product | benzyl 4-(2,2,2-trifluoroethoxy)phenyl ketone | FC(COC1=CC=C(C=C1)C(=O)CC1=CC=CC=C1)(F)F | C16H13F3O2
